US06403610B1
A suspension of 0.7 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(phenylthio)ethyl]piperidine-3-carboxylate in 5 cm3 of methanol, to which methanol had been added 2.9 Cm3 of N aqueous sodium hydroxide, was stirred for 2 hours at a temperature in the region of 80° C. The solution obtained was neutralized with 0.18 cm3 of acetic acid and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 40-63 μm; diameter 3 cm; height 20 cm), elution was carried out with a dichloromethane/ethanol (90/10 by volume) mixture, and 20-cm3 fractions were collected. Fractions 21 to 52 were region of 40° C. 0.53 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(phenylthio)ethyl]piperidine-3-carboxylic acid was obtained in the form of an oil with a beige color.

reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(phenylthio)ethyl]piperidine-3-carboxylate | 0.7 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1=CC=CC=C1)C(=O)OC | C28H34N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 0.18 cm3 | C(C)(=O)O | C2H4O2
solvent | methanol | 5 cm3 | CO | CH4O
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(phenylthio)ethyl]piperidine-3-carboxylic acid | 0.53 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1=CC=CC=C1)C(=O)O | C27H32N2O3S
